US09376700B2
(S)-cyanomethyl 2-azido-3-phenylpropanoate (Boc-N3f-OCH2CN, 1g)
Chloroacetonitrile (1 mL) and DIPEA (310 mg, 0.411 mL, 2.41 mmol) were added to 2-azido-3-phenylpropanoate and stirred for 12 h. The solvent was removed under reduced pressure and SiO2 flash chromatography (40-50% ethyl acetate in hexanes) afforded (250 mg) of a white solid in 50% yield. Rf 0.5 in 50% ethyl acetate in hexanes; 1H NMR (500 MHz, CDCl3) δ 7.37 (t, J=7.6 Hz, 2H), 7.32-7.29 (m, 1H), 7.25 (t, J=7.6 Hz, 2H), 4.77 (t, J=1.0 Hz, 1H), 4.18 (dd, J=6.2, 1.8 Hz, 1H), 3.21 (dd, J=14.0, 5.8 Hz, 1H), 3.08 (dd, J=13.9, 8.4 Hz, 1H); 13C NMR (125 MHz, CDCl3) δ 168.8, 135.1, 129.3, 129.1, 127.8, 113.7, 62.9, 49.3, 37.7; HRMS (ESI) m/z calcd for C11H10N4O2Na [M+Na]+ 253.070. found 253.071.

reactant | Chloroacetonitrile | 1 mL | ClCC#N | C2H2ClN
reactant | DIPEA | 2.41 mmol, 0.411 mL, 310 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-azido-3-phenylpropanoate | N(=[N+]=[N-])C(C(=O)[O-])CC1=CC=CC=C1
product | (S)-cyanomethyl 2-azido-3-phenylpropanoate | 250 mg, 50% yield | N(=[N+]=[N-])[C@H](C(=O)OCC#N)CC1=CC=CC=C1 | C11H10N4O2
